US08247415B2
5-Hydroxy-4-methylfuran-2(5H)-one (1.19 g, 10.4 mmol) and ethyl hydrazinoacetate hydrochloride (1.61 g, 10.4 mmol) in 95% ethanol (20 mL) was refluxed for 2 h. Removal of the solvent in vacuo followed by purification using a Biotage Horizon® system (0-50% ethyl acetate/hexanes mixture) gave ethyl[4-methyl-6-oxopyridazin-1(6H)-yl]acetate as a yellow crystalline. LC/MS 219.2 (M+23).

reactant | 5-Hydroxy-4-methylfuran-2(5H)-one | 10.4 mmol, 1.19 g | OC1C(=CC(O1)=O)C | C5H6O3
reactant | ethyl hydrazinoacetate hydrochloride | 10.4 mmol, 1.61 g | Cl.N(N)CC(=O)OCC
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | ethyl[4-methyl-6-oxopyridazin-1(6H)-yl]acetate | C(C)OC(CN1N=CC(=CC1=O)C)=O | C9H12N2O3
